US07622471B2
[1-(6-Methoxy-3-pyridyl)-5-phenylpyrazol-3-yl]methanol
In an argon atmosphere while cooling with ice, 1.08M borane-tetrahydrofuran complex in tetrahydrofuran (9.2 mL) was added dropwise to 1-(6-methoxy-3-pyridyl)-5-phenylpyrazole-3-carboxylic acid (1.181 g) in tetrahydrofuran (20 mL) obtained from Referential Example 41 over a period of 10 minutes, and the resultant mixture was stirred at room temperature for 7 hours. Water and ethyl acetate were added to the reaction mixture, followed by stirring, and precipitated insoluble matter was removed by filtration, and then an organic layer was separated. The organic layer was sequentially washed with water and saturated brine, and then dried over sodium sulfate anhydrate, followed by filtration. The solvent was evaporated under reduced pressure, and the residue was purified through silica gel column chromatography (hexane-ethyl acetate), to thereby give the title compound as an oily product (682 mg, 60%).

reactant | 1-(6-methoxy-3-pyridyl)-5-phenylpyrazole-3-carboxylic acid | 1.181 g | COC1=CC=C(C=N1)N1N=C(C=C1C1=CC=CC=C1)C(=O)O | C16H13N3O3
reactant | Water | O | H2O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 9.2 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | [1-(6-Methoxy-3-pyridyl)-5-phenylpyrazol-3-yl]methanol | COC1=CC=C(C=N1)N1N=C(C=C1C1=CC=CC=C1)CO | C16H15N3O2
